US06159904
14-2) Synthesis of 3-(4-ethoxycarbonyl-2,5-dimethylphenylthio)propionic acid
47 Grams (607 mmol) of a 70 wt % sodium hydrosulfide and 200 ml of toluene were added to 400 ml of N,N-dimethylformamide, and while the mixture was refluxed under heat for 2 hours, water was distilled off from the reaction system. When the temperature of the reaction mixture was decreased to about 100° C. while the reaction mixture was allowed to cool, 54 g (210 mmol) of ethyl-4-bromo-2,5-dimethylbenzoate was added, and the mixture was allowed to react at the same temperature for 6 hours. The reaction mixture was cooled to room temperature, 42 ml (607 mmol) of acrylic acid was dropwise added, then 84 ml (607 mmol) of triethylamine was added, and then the mixture was stirred at room temperature for about 1 day. The above procedures were all conducted under nitrogen atmosphere. The reaction mixture was diluted with water, and washed with ethyl acetate four times and with n-hexane once, and an aqueous layer was acidified with a 12N hydrochloric acid aqueous solution. A precipitated solid was collected by filtration under reduced pressure, washed with water, dissolved in ethyl acetate, washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give 34.3 g (yield 58%) of the titled compound.

reactant | sodium hydrosulfide | [SH-].[Na+]
reactant | ethyl-4-bromo-2,5-dimethylbenzoate | 210 mmol, 54 g | C(C)OC(C1=C(C=C(C(=C1)C)Br)C)=O | C11H13BrO2
reactant | acrylic acid | 607 mmol, 42 ml | C(C=C)(=O)O | C3H4O2
reactant | triethylamine | 607 mmol, 84 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-ethoxycarbonyl-2,5-dimethylphenylthio)propionic acid | 34.3 g, yield 58% | C(C)OC(=O)C1=CC(=C(C=C1C)SCCC(=O)O)C | C14H18O4S
